US07579473B2
A mixture of N-(4-benzyloxy-3-fluorophenyl)-N′-(2-phenylethyl)ethanediamide (40 g, 100 mmol) and 38% hydrobromic acid in acetic acid (250 mL) was stirred at room temperature overnight. The resulting solid was filtered, washed with water and dried to give N-(3-fluoro-4-hydroxyphenyl)-N′-(2-phenylethyl)ethanediamide as a slightly yellow solid (30.6 g, 99% yield). 1H NMR (400 MHz, d6-DMSO): δ 10.60 (s, 1H), 9.02 (t, 1H), 7.70 (d, 1H), 7.47 (d, 1H), 7.32-7.20 (m, 3H), 6.91 (t, 1H), 3.43 (m, 2H), 2.81 (m, 2H); 13C NMR (100 MHz, d6-DMSO): δ 160.5, 158.8, 152.0, 149.6, 142.2, 139.8, 130.3, 129.3, 129.0, 126.8, 118.1, 117.4, 109.6, 109.3 IR (cm−1): 3279, 1653, 1518, 1456, 1279, 1190, 742, 696, 584; LC/MS (M+H=303).

reactant | N-(4-benzyloxy-3-fluorophenyl)-N′-(2-phenylethyl)ethanediamide | 100 mmol, 40 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC(C(=O)NCCC1=CC=CC=C1)=O)F | C23H21FN2O3
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | N-(3-fluoro-4-hydroxyphenyl)-N′-(2-phenylethyl)ethanediamide | FC=1C=C(C=CC1O)NC(C(=O)NCCC1=CC=CC=C1)=O | C16H15FN2O3
